US07282588B2
1,1-dimethylethyl 4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyrimidinyl]-1-piperazinecarboxylate
A mixture of 1-dimethylethyl 4-(5-bromo-2-pyrimidinyl)-1-piperazinecarboxylate (3.00 mmol), bis(pinacolato)diboron (3.30 mmol) and potassium acetate (9.00 mmol) was diluted with 1,4-dioxane (10 ml) and degassed with argon for 10 minutes. Dichlorobis(triphenylphosphine) palladium(II) (0.15 mmol) was added and the resulting mixture heated at 95° C. overnight under argon. Upon cooling and dilution with EtOAc (100 ml), the mixture was sonicated for 10 minutes. Filtration through a pad of silica and concentration in vacuo provided a solid residue which was purified on 40g silica gel (CHCl3/EtOAc w/0.1% MeOH). Recrystallization from diethyl ether/hexanes yielded the title product as white needles (44%). ESMS [M+H]+: 391.2

reactant | 1-dimethylethyl 4-(5-bromo-2-pyrimidinyl)-1-piperazinecarboxylate | 3.00 mmol | BrC=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H19BrN4O2
reactant | bis(pinacolato)diboron | 3.30 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 9.00 mmol | C(C)(=O)[O-].[K+]
reactant | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 1,1-dimethylethyl 4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyrimidinyl]-1-piperazinecarboxylate | 44% | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C19H31BN4O4
